US08071779B2
(R)—N-(Piperidin-3-yl)-1H-indazol-5-amine
Reaction of 5-bromo-1-(4-methoxybenzyl)-1H-indazole and (R)-tert-butyl 3-aminopiperidine-1-carboxylate using the method of Example 13 followed by deprotection using the method of Example 14 afforded the title compound.

reactant | 5-bromo-1-(4-methoxybenzyl)-1H-indazole | BrC=1C=C2C=NN(C2=CC1)CC1=CC=C(C=C1)OC | C15H13BrN2O
reactant | (R)-tert-butyl 3-aminopiperidine-1-carboxylate | N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
product | (R)—N-(Piperidin-3-yl)-1H-indazol-5-amine | N1C[C@@H](CCC1)NC=1C=C2C=NNC2=CC1 | C12H16N4
